US05695910
A solution of 9-anthracenemethanol (15.0 g, 72 mmole) and triethylamine (7.3 g, 72 mmole) in methylene chloride (100 ml) and 1,4-dioxane (120 ml) was cooled. Acetyl chloride (6.8 g, 86.4 mmole) was added dropwise to the solution at 5°-10° C. and reacted with stirring for 2.5 hours at same temperature. After reaction, the reaction mixture was poured into ice-cold H2O (350 ml), acidified with 10% aqueous HCl, extracted with methylene chloride (100 ml). The resulting organic layer was washed with H2O (100 ml×1), saturated aqueous sodium bicarbonate (100 ml×1) and H2O (100 ml×1), dried over anhydrous MgSO4 and evaporated. The residual crude solid (17.7 g) was recrystallized from n-hexane to give 11.0 g of 9-anthrylmethyl acetate as yellow needles having a melting point of 110.0°-111.5° C.

reactant | 9-anthracenemethanol | 72 mmole, 15.0 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | triethylamine | 72 mmole, 7.3 g | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 86.4 mmole, 6.8 g | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 9-anthrylmethyl acetate | 11.0 g | C(C)(=O)OCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C17H14O2
